US07235559B1
Chloromethyl pivalate (225 ml, 1.56 mol) was added dropwise to a stirred mixture of 6-methoxy-7-benzyloxyquinazol-4-one (400 g, 1.42 mol) and potassium carbonate (783 g, 5.67 mol) in dimethylacetamide (5500 ml). The reaction was heated to 90° C. for 4 hours. The reaction was cooled and filtered to remove inorganic salts. The filtrate was concentrated in vacuo to yield, crude tert-butyl 2-[7-(benzyloxy)-6-methoxy-4-oxo-3(4H)-quinazolinyl]acetate (562 g, 100% yield):

reactant | Chloromethyl pivalate | 1.56 mol, 225 ml | C(C(C)(C)C)(=O)OCCl | C6H11ClO2
reactant | 6-methoxy-7-benzyloxyquinazol-4-one | 1.42 mol, 400 g | COC=1C=C2C(NC=NC2=CC1OCC1=CC=CC=C1)=O | C16H14N2O3
reactant | potassium carbonate | 5.67 mol, 783 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylacetamide | 5500 ml | CC(=O)N(C)C | C4H9NO
product | tert-butyl 2-[7-(benzyloxy)-6-methoxy-4-oxo-3(4H)-quinazolinyl]acetate | 562 g, 100% yield | C(C1=CC=CC=C1)OC1=C(C=C2C(N(C=NC2=C1)CC(=O)OC(C)(C)C)=O)OC | C22H24N2O5
